US07528143B2
4-[4-(4-Amino-5-methyl-pyrimidin-2-ylamino)-benzyl]-piperazine-1-carboxylic acid tert-butyl ester (Intermediate 40)
A mixture of 2-chloro-5-methyl-pyrimidin-4-ylamine (0.35 g, 2.4 mmol) and 4-(4-amino-benzyl)-piperazine-1-carboxylic acid tert-butyl ester (0.80 g, 2.8 mmol) in acetic acid (20 mL) was heated at 70° C. for 1 d. After cooling to room temperature, the mixture was concentrated. The residue was taken in water (30 mL) and neutralized with 10% NaOH solution until pH ˜10. The resulting aqueous layer was extracted with EtOAc (2×30 mL) and the combined organic layers washed with brine, dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated and the title compound used in the next step without purification. MS (ES+): m/z 399 (M+H)+.

reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 2.4 mmol, 0.35 g | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 4-(4-amino-benzyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 0.80 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)N | C16H25N3O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-[4-(4-Amino-5-methyl-pyrimidin-2-ylamino)-benzyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)NC1=NC=C(C(=N1)N)C | C21H30N6O2
